US05578620
3-(5-Phenylpentyloxy)-2-hydroxypropylazide
A procedure similar to that described in Preparation 12 was repeated, except that 4.0 g of 5-phenylpentyloxymethyloxirane (prepared as described in Preparation 49), 5.9 g of sodium azide, 160 ml of an 8:1 by volume mixture of methanol and water and 40 ml of methyl formate were used, to give 4.5 g of the title compound as a pale yellow oil having an Rf value of 0.25 (on silica gel thin layer chromatography, using a 1:4 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | 5-phenylpentyloxymethyloxirane | 4.0 g | C1(=CC=CC=C1)CCCCCOCC1OC1 | C14H20O2
reactant | sodium azide | 5.9 g | [N-]=[N+]=[N-].[Na+]
reactant | methanol | CO | CH4O
reactant | methyl formate | 40 ml | C(=O)OC | C2H4O2
solvent | water | O | H2O
product | 3-(5-Phenylpentyloxy)-2-hydroxypropylazide | 4.5 g | C1(=CC=CC=C1)CCCCCOCC(CN=[N+]=[N-])O | C14H21N3O2
